US09062070B2
Step F: ethyl 3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridine-7-carboxylate
A mixture of 7-tert-butyl 7-ethyl 3-nitro-5,6-dihydro-7H-cyclopenta[b]pyridine-7,7-dicarboxylate (6.2 g, 18.4 mmol) in 30 mL of TFA and 30 mL DCM was stirred at 35° C. for 3 hours then concentrated to dryness. The residue was dissolved in 200 mL of EtOAc and washed with saturated NaHCO3 (2×25 mL) and brine (25 mL), dried over anhydrous Na2SO4 and concentrated to afford the title compound.

reactant | 7-tert-butyl 7-ethyl 3-nitro-5,6-dihydro-7H-cyclopenta[b]pyridine-7,7-dicarboxylate | 18.4 mmol, 6.2 g | [N+](=O)([O-])C=1C=C2C(=NC1)C(CC2)(C(=O)OC(C)(C)C)C(=O)OCC | C16H20N2O6
solvent | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridine-7-carboxylate | [N+](=O)([O-])C=1C=C2C(=NC1)C(CC2)C(=O)OCC | C11H12N2O4
